US05665718
0.37 g (1.04 mmol) of 3-(5-ethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 6 ml ethanol was treated with 0.31 ml (1.14 mmol) of 3.70N ethanolic hydrochloric acid. Crystals separated after adding 20 ml of acetic acid at 0°. There was obtained 0.30 g (73%) of 3-(5-ethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1) as whitish crystals; m.p. 250°-252° (dec.).

reactant | 3-(5-ethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.04 mmol, 0.37 g | C(C)NCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C17H17FN6O2
reactant | hydrochloric acid | 1.14 mmol, 3.70N, 0.31 ml | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 3-(5-ethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.30 g, 73% | Cl.C(C)NCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | InChI=1S/C17H17FN6O2.ClH/c1-3-19-7-14-21-16(22-26-14)15-13-8-23(2)17(25)11-6-10(18)4-5-12(11)24(13)9-20-15;/h4-6,9,19H,3,7-8H2,1-2H3;1H
